US07420001B2
To 1.72 g of 4-bromoaniline was added to 1.89 g of benzofuran-2-carboxylic acid chloride in 35 mL of dichloromethane cooled in ice bath, followed by the addition of 4.9 mL of triethylamine. The reaction was stirred at room temperature overnight and then diluted with dichloromethane. The dichloromethane layer was washed with water, 1N HCl, water and brine, dried over Na2SO4, filtered, and concentrated in vacuo to provide 2.61 g of N-(4-bromophenyl)-1-benzofuran-2-carboxamide as a yellow solid. Yield 72%. m.p. 178-180° C.; MS: 314.1(M−H)−.

reactant | 4-bromoaniline | 1.72 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | benzofuran-2-carboxylic acid chloride | 1.89 g | O1C(=CC2=C1C=CC=C2)C(=O)Cl | C9H5ClO2
reactant | triethylamine | 4.9 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | N-(4-bromophenyl)-1-benzofuran-2-carboxamide | 2.61 g, Yield 72% | BrC1=CC=C(C=C1)NC(=O)C=1OC2=C(C1)C=CC=C2 | C15H10BrNO2
